US08975415B2
A mixture of di-tert-butyl (6′-bromo-2′,2′-dimethyldispiro[oxetane-3,3′-chromene-4′,4″-[1,3]thiazol]-2″-yl)imidodicarbonate (268 mg, 0.471 mmol), pyrimidin-5-ylboronic acid (175 mg, 1.41 mmol), bis(triphenylphosphine)palladium(II) dichloride (33.0 mg, 0.047 mmol) and Na2CO3 (150 mg, 1.41 mmol) in dioxane-water (4:1, 5.4 mL) was stirred for 1.5 hours at 100° C. Tetrakis(triphenylphosphine)palladium(0) (272 mg, 0.235 mmol) was added to the mixture and the mixture was stirred for 1.5 hours at 100° C. To the mixture was added charcoal and the mixture was stirred for 30 minutes at 50° C. The mixture was filtered through celite pad (eluted with EtOAc) and the filtrate was washed with water and brine. The organic layer was dried over MgSO4 and filtered, and the filtrate was concentrated at reduced pressure. To the residue were added toluene (2.7 mL) and silica gel (neutral; 804 mg), and the mixture was stirred for 1 hour at 110° C. After concentration of the reaction mixture at reduced pressure, the residue was purified with column chromatography on silica gel (CHCl3-EtOH, a linear gradient of EtOH from 0 to 20%), then re-purified with column chromatography on amino silica gel (Hexane-EtOAc, a linear gradient of EtOAc from 0 to 90%). The purified product was dissolved in dioxane (5.0 mL) and HCl (4 M in dioxane, 0.049 mL, 0.198 mmol) was added. The mixture was stirred for 2 hours at ambient temperature. After concentration at reduced pressure, the residue was triturated with IPE, collected by filtration and washed with IPE. The solid was dried under reduced pressure at 30° C. to afford 2′,2′-dimethyl-6′-(pyrimidin-5-yl)dispiro[oxetane-3,3′-chromene-4′,4″-[1,3]thiazol]-2″-amine hydrochloride (62.6 mg).

reactant | di-tert-butyl (6′-bromo-2′,2′-dimethyldispiro[oxetane-3,3′-chromene-4′,4″-[1,3]thiazol]-2″-yl)imidodicarbonate | 0.471 mmol, 268 mg | BrC=1C=C2C(=CC1)OC(C1(COC1)C21N=C(SC1)N(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)(C)C | C25H33BrN2O6S
reactant | pyrimidin-5-ylboronic acid | 1.41 mmol, 175 mg | N1=CN=CC(=C1)B(O)O | C4H5BN2O2
reactant | Na2CO3 | 1.41 mmol, 150 mg | C(=O)([O-])[O-].[Na+].[Na+]
reactant | charcoal | C | CH4
reactant | HCl | 0.198 mmol, 4 M, 0.049 mL | Cl | ClH
solvent | dioxane water | 5.4 mL | O1CCOCC1.O
catalyst | bis(triphenylphosphine)palladium(II) dichloride | 0.047 mmol, 33.0 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 0.235 mmol, 272 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2′,2′-dimethyl-6′-(pyrimidin-5-yl)dispiro[oxetane-3,3′-chromene-4′,4″-[1,3]thiazol]-2″-amine hydrochloride | 62.6 mg | Cl.CC1(OC2=CC=C(C=C2C2(N=C(SC2)N)C12COC2)C=2C=NC=NC2)C | InChI=1S/C19H20N4O2S.ClH/c1-17(2)18(8-24-9-18)19(10-26-16(20)23-19)14-5-12(3-4-15(14)25-17)13-6-21-11-22-7-13;/h3-7,11H,8-10H2,1-2H3,(H2,20,23);1H
